US09034900B2
Step 2: 4-bromo-6-fluoro-2-methylisoquinolin-1-one
Bromine (232 mg, 1.45 mmol, 0.097 mL) in acetic acid (1.0 mL) was added dropwise, quickly to 6-fluoro-2-methylisoquinolin-1-one (283 mg, 1.61 mmol) in acetic acid (7.0 mL) under N2 and cooled in an ice bath. The ice bath was removed and the thick suspension was stirred for 10 min at room temperature. Ice and water and ethyl acetate were added. Extractive work up with ethyl acetate, washing with aqueous 0.5 N NaOH, H2O, saturated aqueous KHSO4 and brine, gave the title compound as a cream solid (313 mg) which was carried on without purification.

reactant | Bromine | 1.45 mmol, 0.097 mL, 232 mg | BrBr | Br2
reactant | 6-fluoro-2-methylisoquinolin-1-one | 1.61 mmol, 283 mg | FC=1C=C2C=CN(C(C2=CC1)=O)C | C10H8FNO
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 7.0 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-6-fluoro-2-methylisoquinolin-1-one | 313 mg | BrC1=CN(C(C2=CC=C(C=C12)F)=O)C | C10H7BrFNO
